US03950376
3-Benzylthio-4-phenylthio-5-sulfamylbenzoic acid
A mixture of ethyl 3-benzylthio-4-phenylthio-5-sulfamylbenzoate (0.35 g), 1 N sodium hydroxide (10 ml), and ethanol (5 ml) is stirred for 10 minutes. The resulting solution is boiled for 2 minutes and is thereafter left for 1 hour to reach room temperature. 1 N hydrochloric acid (10.5 ml) is added to precipitate 3-benzylthio-4-phenylthio-5-sulfamylbenzoic acid. After collection by filtration and recrystallization from aqueous ethanol the compound is obtained with a melting point of 208° - 209° C.

reactant | ethyl 3-benzylthio-4-phenylthio-5-sulfamylbenzoate | 0.35 g | C(C1=CC=CC=C1)SC=1C=C(C(=O)OCC)C=C(C1SC1=CC=CC=C1)S(N)(=O)=O | C22H21NO4S3
reactant | sodium hydroxide | 1 N, 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 10.5 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-Benzylthio-4-phenylthio-5-sulfamylbenzoic acid | C(C1=CC=CC=C1)SC=1C=C(C(=O)O)C=C(C1SC1=CC=CC=C1)S(N)(=O)=O | C20H17NO4S3
